US04485111
(Example 1; Code No. R 7262)
8.9 g of (±)-2,4-diacetyl-5-(3-tert-butylamino-2-hydroxy-propyloxy)-benzofuran in solution in CHCl3 are charged in a reactor cooled externally with an ice bath, then a stream of gaseous HCl is bubbled up to saturation. After evaporation of CHCl3 under reduced pressure, a precipitate is obtained which is taken up in CHCl3, triturated drained and dried. 9.2 g of the expected product are obtained, m.p.=214°-216° C.

reactant | (±)-2,4-diacetyl-5-(3-tert-butylamino-2-hydroxy-propyloxy)-benzofuran | 8.9 g | C(C)(=O)C=1OC2=C(C1)C(=C(C=C2)OCC(CNC(C)(C)C)O)C(C)=O | C19H25NO5
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | R 7262 | 9.2 g | CC(=O)C1=CC2=C(O1)C=CC(=C2C(=O)C)OCC(CNC(C)(C)C)O.Cl | InChI=1S/C19H25NO5.ClH/c1-11(21)17-8-14-15(25-17)6-7-16(18(14)12(2)22)24-10-13(23)9-20-19(3,4)5;/h6-8,13,20,23H,9-10H2,1-5H3;1H
